US08466186B2
(c) 2,3-Diamino-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile
A mixture of 2-amino-3-nitro-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile (200 mg, 0.64 mmol), Fe (178 mg, 3.18 mmol), aqueous NH4Cl (5 mL) and EtOH (5 mL) was heated under Ar at 90° C. for 2 h. The mixture was thereafter basicified to pH ˜9-10 and filtered through celite and the celite pad was washed with EtOH and EtOAc. The organic layer was concentrated and the residue was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was washed with Et2O to give the sub-title compound.

reactant | 2-amino-3-nitro-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile | 0.64 mmol, 200 mg | NC1=C(C#N)C(=CC=C1[N+](=O)[O-])N1CC(CCC1)C(F)(F)F | C13H13F3N4O2
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
catalyst | Fe | 3.18 mmol, 178 mg | [Fe] | Fe
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2,3-Diamino-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile | NC1=C(C#N)C(=CC=C1N)N1CC(CCC1)C(F)(F)F | C13H15F3N4
